US07569571B2
Preparation of N-Cyclopropyl-3-(2-hydroxy-6-phenyl-purin-9-yl)-4-methyl-benzamide
To a stirred solution of 3-(5-amino-4-benzoyl-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide (9.2 mg, 0.026 mmol) in 0.3 mL acetic acid was added urea (20 mg) and the mixture was heated at 180° C. for 20 min. in the microwave. The crude product was purified by HPLC to give a colorless solid (2.4 mg, 24%). HPLC tR=1.63 min; MS m/z 386 [M+H]+.

reactant | 3-(5-amino-4-benzoyl-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | 0.026 mmol, 9.2 mg | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC=CC=C1)=O | C21H20N4O2
reactant | urea | 20 mg | NC(=O)N | CH4N2O
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
product | N-Cyclopropyl-3-(2-hydroxy-6-phenyl-purin-9-yl)-4-methyl-benzamide | 2.4 mg, 24% | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC(=NC(=C2N=C1)C1=CC=CC=C1)O)=O | C22H19N5O2
